US04474754
4. Preparation of Z-Ser-Leu-NHNH2
2.54 Grams of Z-Ser-NHNH2 was dissolved in 20 ml of dimethylformamide, and 5.00 ml of 6N-hydrochloric acid/dioxane was added thereto and the mixture was cooled to -15° C., then 1.34 ml of isoamyl nitrite was added under stirring condition. After the reaction mixture shows a negative reaction in hydrazine test, then a cold solution of 1.40 ml of dimethylformamide with 4.20 ml of triethylamine was added drop by drop in small amounts to neutralize the reaction mixture. This reaction mixture containing the azide was added to a 15 ml of a cold dimethylformamide solution containing 1.96 g of H-Leu-OC2H5.HCl and 1.40 ml of triethylamine, then whole mixture was stirred at -10° to -15° C. for 2 hours and at 4° C. for 20 hours. Dimethylformamide was removed by distillation under a reduced pressure and the residue thus obtained was extracted with ethyl acetate, then the ethyl acetate layer was washed with 1N-citric acid, a saturated aqueous solution of sodium chloride, a saturated aqueous solution of sodium hydrogencarbonate and a saturated aqueous solution of sodium chloride in this order and dried with anhydrous sodium sulfate then ethyl acetate was removed by distillation under a reduced pressure. To the residue thus obtained was added petroleum ether and washed by decantation. The oily substance obtained was dried under a reduced pressure in a desiccator, and the dried product was dissolved in 50 ml of methanol and 2.50 ml of 100% hydrazine monohydrate was added under ice-cooled condition, then the reaction product was allowed to stand at a room temperature for 20 hours, then methanol was removed by distillation under a reduced pressure. The residue thus obtained was solidified by adding ethyl ether and was dried in a desiccator. The dried product was washed with water to remove an excess of hydrazine monohydrate and reprecipitated from methanol-ethyl acetate to obtain 2.68 g of the desired product.

reactant | Z-Ser-NHNH2 | N([C@@H](CO)C(=O)NN)C(=O)OCC1=CC=CC=C1 | C11H15N3O4
reactant | hydrochloric acid dioxane | Cl.O1CCOCC1
reactant | isoamyl nitrite | 1.34 ml | N(=O)OCCC(C)C | C5H11NO2
reactant | azide | [N-]=[N+]=[N-]
reactant | H-Leu-OC2H5.HCl | 1.96 g | N[C@@H](CC(C)C)C(=O)OCC.Cl
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | hydrazine | NN | H4N2
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 1.40 ml | CN(C=O)C | C3H7NO
solvent | ethyl ether | C(C)OCC | C4H10O
solvent | triethylamine | 1.40 ml | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 4.20 ml | C(C)N(CC)CC | C6H15N
product | Z-Ser-Leu-NHNH2 | 2.68 g | N([C@@H](CO)C(=O)N[C@@H](CC(C)C)C(=O)NN)C(=O)OCC1=CC=CC=C1 | C17H26N4O5
